US07417064B2
(2R,3S)-3-(3,5-Dichloro-phenoxy)-hexane-1,2-diol
Add sodium hydroxide (1N, 9 mL) to a stirred solution of 3,5-dichlorophenol in THF (9 mL) followed by a solution of (R,R)-(3-propyl-oxiranyl)-methanol in THF (5 mL). Heat the reaction mixture at 75° C. overnight, cool to room temperature, add water, brine and dichloromethane, and separate the layers. The aqueous layer is extracted with dichloromethane, the combined organic extracts are washed successively with 1N sodium hydroxide and water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Analysis of the crude reaction mixture by 1H NMR reveals a ˜2:1 mixture of the C-3:C-1 adducts. Purification of the crude residue on silica gel eluting with 0-25% EtOAc/hexanes gives the major title compound (332 mg, 26%). 1H NMR (DMSO-d6): 0.86 (dd, 3H, J=4, 4 Hz), 1.21-1.48 (m, 2H), 1.52-1.72 (m, 2H), 3.28-3.45 (m, 2H), 3.60-3.67 (m, 2H), 4.37-4.44 (m, 1H), 4.69 (dd, 1H, J=6, 6 Hz), 4.88 (d, 1H, J=5 Hz), 7.01-7.10 (m, 3H).

reactant | sodium hydroxide | 1N, 9 mL | [OH-].[Na+]
reactant | 3,5-dichlorophenol | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | (R,R)-(3-propyl-oxiranyl)-methanol | C(CC)[C@@H]1[C@H](O1)CO | C6H12O2
reactant | water | O | H2O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2R,3S)-3-(3,5-Dichloro-phenoxy)-hexane-1,2-diol | 332 mg, 26% | ClC=1C=C(O[C@H]([C@@H](CO)O)CCC)C=C(C1)Cl | C12H16Cl2O3
